US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and 4-trifluoromethyl-phenylboronic acid to give (5-methyl-1H-pyrazol-3-yl)-[1-(4-trifluoromethyl-phenyl)-6-methoxy-isoquinolin-3-yl]-amine. LC-MS m/e 399(MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
reactant | 4-trifluoromethyl-phenylboronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | (5-methyl-1H-pyrazol-3-yl)-[1-(4-trifluoromethyl-phenyl)-6-methoxy-isoquinolin-3-yl]-amine | CC1=CC(=NN1)NC=1N=C(C2=CC=C(C=C2C1)OC)C1=CC=C(C=C1)C(F)(F)F | C21H17F3N4O
